US07223874B2
2-phenyl-3a-(1-phenyl-vinyl)-hexahydrofuro[3,2-b]pyran-5-one
(5-phenyl-3-vinylidene-tetrahydro-furan-2-yl)propionic acid (60 mg, 0.25 mmol), Pd(PPh3)4 (29 mg, 0.025 mmol), K2CO3 (170 mg, 1.23 mmol) were dissolved in 6 mL of dimethylformamide, followed by addition of PhI (138 μL, 1.23 mmol). The solution was stirred for 4 hours at 85° C. When the reaction was completed, H2O was added and the solution was stirred for 5 minutes. The mixture was diluted with ethyl acetate, washed with H2O and NaCl. Organic layer was separated and dried with anhydride MgSO4. Solvent was removed under reduced pressure, and the remnant was purified through silica gel tube chromatography (EtOAc:n-Hexane=1:15, v/v), thus providing products (52 mg, 67%).

reactant | (5-phenyl-3-vinylidene-tetrahydro-furan-2-yl)propionic acid | 0.25 mmol, 60 mg | C1(=CC=CC=C1)C1CC(C(O1)C(C(=O)O)C)=C=C | C15H16O3
reactant | K2CO3 | 1.23 mmol, 170 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | PhI | 1.23 mmol, 138 μL | C1(=CC=CC=C1)I | C6H5I
reactant | H2O | O | H2O
reactant | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-phenyl-3a-(1-phenyl-vinyl)-hexahydrofuro[3,2-b]pyran-5-one | C1(=CC=CC=C1)C1CC2(OC(CCC2O1)=O)C(=C)C1=CC=CC=C1 | C21H20O3
